US04259509
(A) Methyl 2-[4-(2-thenoyl)-phenoxy]2-methyl-propionate
2-[4-(2-Thenoyl)-phenoxy]-2-methyl-propionic acid (M.p. 157° C.; 29 g; obtained according to the procedure described in Example 2 from 2-thienyl(4-hydroxy-phenyl)ketone) is dissolved in anhydrous methanol (300 ml), concentrated sulfuric acid (2 ml) is then added thereto and the mixture is heated for 6 hours at the reflux temperature. The solvent is then evaporated off under reduced pressure and the residue is dissolved in ethyl ether; the organic phase is washed with an aqueous sodium hydroxide solution. After neutralization and drying, the ether is evaporated off and the methyl ester is recrystallized from ethanol, to give 29 g of product which melts at 85° C.

reactant | 2-[4-(2-Thenoyl)-phenoxy]-2-methyl-propionic acid | C1(=CC=CS1)C(=O)C1=CC=C(OC(C(=O)O)(C)C)C=C1 | C15H14O4S
reactant | 2-thienyl(4-hydroxy-phenyl)ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)O | C11H8O2S
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 300 ml | CO | CH4O
product | Methyl 2-[4-(2-thenoyl)-phenoxy]2-methyl-propionate | 29 g | C1(=CC=CS1)C(=O)C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C16H16O4S
